* source QUESTION 1
I_I1         0 N00466 DC 6Adc  
R_R3         N00154 0  2  
R_R4         0 N00121  1  
R_R6         N00121 N00815  4  
R_R5         N00254 N00154  3  
E_E1         N00815 N00466 N00154 N00254 3
R_R2         N00254 N00466  10  
R_R1         N00254 N00815  15  
